US06552021B2
A solution of 3-nitro-(quinoxalinylamino)benzoic acid (0.8 g, 2.58 mmol) in 5M NaOH (40 mL) was treated with NaBH4 (0.9 g, 12.9 mmol), and the mixture was heated under reflux for 2 h. The cooled mixture was diluted with water (40 mL), then neutralized with glacial AcOH to give pyrazino[2,3-α]phenazine-11-carboxylic acid (0.52 g, 73%): mp (MeOH/Et3N/AcOH)>350° C. 1H NMR [CF3CO2D] δ 8.62 (dd, J=8.8, 7.3 Hz, 1 H, H-9), 8.91 (d, J=9.8 Hz, 1 H, H-5 or H-6), 8.97 (d, J=9.8 Hz, H-5 or H-6), 9.18 (dd, J=8.8, 1.0 Hz, 1 H, H-8), 9.47 (dd, J=7.3, 1.0 Hz, 1 H, H-10), 9.57 (d, J=2.2 Hz, 1 H, H-2 or H-3), 9.65 (d, J=2.2 Hz, 1 H, H-2 or H-3),

reactant | 3-nitro-(quinoxalinylamino)benzoic acid | 2.58 mmol, 0.8 g | [N+](=O)([O-])C=1C(=C(C(=O)O)C=CC1)NC1=NC2=CC=CC=C2N=C1 | C15H10N4O4
reactant | NaBH4 | 12.9 mmol, 0.9 g | [BH4-].[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | NaOH | 5M, 40 mL | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
product | pyrazino[2,3-α]phenazine-11-carboxylic acid | 0.52 g, 73% | N1=CC=NC=2C1=C1N=C3C(=CC=CC3=NC1=CC2)C(=O)O | C15H8N4O2
